US06172085B2
Tert-butyl [2-[2-[4-(diphenylmethoxy)-1-piperidinyl]ethyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate
A suspension of tert-butyl [2-(2-bromoethyl)-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate (1.2 g), 4-(diphenylmethoxy)piperidine (0.85 g), and potassium carbonate (0.44 g) in N,N-dimethylformamide (20 mL) was stirred at 60° C. for 15 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=98:2 to 95:5) to provide 1.6 g of the title compound. Yield 92%.

reactant | tert-butyl [2-(2-bromoethyl)-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | 1.2 g | BrCCC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C | C19H28BrNO3
reactant | 4-(diphenylmethoxy)piperidine | 0.85 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | potassium carbonate | 0.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Tert-butyl [2-[2-[4-(diphenylmethoxy)-1-piperidinyl]ethyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | 1.6 g, Yield 92% | C1(=CC=CC=C1)C(OC1CCN(CC1)CCC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C)C2=CC=CC=C2 | C37H48N2O4
